Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
R IJ inserted ___ in ED, removed ___
 
History of Present Illness:
___ y/o F with recent admission for UTI (abx stopped ___ 
presents with confusion and fevers. History is unclear however, 
patient was found by EMS at home walking around and confused. 
She reportedly complained of mild lower back pain and abdominal 
pain. She also had nausea. Pt is a poor historian and told me 
she is here because of a UTI but could not elaborate.  
Re recent admission in ___ for UTI with GNR sepsis (E coli 
bacteremia and in urine) where she was treated with cipro for 
14d  
In the ED intial vitals were: 101.9 106 172/82 24 94% RA per ED 
dash rectal temp was 104 at one point  
- Labs were significant for WBC 3.5, Ht33, Cr 2.2 urine 
methadone pos, UA pos nitr, >182 WBC, large leuk  
CT abd showed streaking around both kidneys which is unchanged  
- Patient was given cipro IV and tylenol  
 
 
Past Medical History:
- H/o DVT  
- MI ___, no stents  
- DM type I. Followed by ___.  
- Peripheral neuropathy  
- gastroparesis  
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD  
- Autonomic dysfunction, orthostatic hypotension  
- Barretts Esophagus on EGD ___  
- Depression  
- S/p right BKA  
- Hiatal hernia  
- sciatica  
- S/p laminectomy  
- S/p hysterectomy 
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
 
___.  
Father - coronary artery disease with MI in her ___, died at age 
 
___.  
 
 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals - 98.5 83 109/50 97%RA 73kg  
GENERAL: sleeping, wakes up to give me one word answers and 
falls back asleep,  
HEENT: dry tongue and lips  
CARDIAC: RRR, systolic murmur  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
LUNGS: CTAB  
ABDOMEN: soft, nontender, nondistended. no guarding or rebound.  

EXT: WWP, no edema.  
SKIN: dry, no rash  
NEURO/PSYCH: A&Ox3. CNs II-XII grossly intact. EOMI, PERRLA,  
strength and sensation in BUE/BLE grossly intact except for R  
BKA, L TA ___. gait not assessed.  

DISCHARGE PHYSICAL EXAM:
VITALS: T98.1 110/64 76 18 98%RA
GENERAL: lying in bed, alert and oriented to person, place, and 
date
HEENT: MMM, neck is supple with no LAD. RIJ line removed, site 
c/d/i without erythema or bleeding with dressing in place. 
CARDIAC: RRR, S1 and S2, no m/r/g  
LUNG: CTAB, no wheezes/rhonchi/rales, breathing comfortably 
without use of accessory muscles   
ABDOMEN: nontender, nondistended. BS+.   
EXT: WWP, 2+ DP on R, no edema. BKA on L.  
 
Pertinent Results:
ADMISSION LABS:
___ 03:55PM BLOOD WBC-3.5*# RBC-3.56* Hgb-11.2*# Hct-33.3* 
MCV-94 MCH-31.4 MCHC-33.5 RDW-13.9 Plt ___
___ 03:55PM BLOOD Neuts-88.5* Lymphs-7.2* Monos-1.2* 
Eos-1.9 Baso-1.3
___ 03:55PM BLOOD ___ PTT-28.3 ___
___ 03:55PM BLOOD Glucose-114* UreaN-40* Creat-2.2* Na-131* 
K-4.3 Cl-92* HCO3-25 AnGap-18
___ 03:55PM BLOOD ALT-21 AST-27 AlkPhos-140* TotBili-0.3
___ 05:53AM BLOOD Calcium-8.3* Phos-1.1*# Mg-1.6
___ 09:35PM BLOOD ___ pO2-39* pCO2-46* pH-7.41 
calTCO2-30 Base XS-3
___ 04:05PM BLOOD Lactate-1.9

DISCHARGE LABS:
___ 05:25AM BLOOD WBC-7.0 RBC-2.91* Hgb-8.9* Hct-26.9* 
MCV-93 MCH-30.6 MCHC-33.1 RDW-13.6 Plt ___
___ 05:25AM BLOOD Glucose-284* UreaN-22* Creat-1.4* Na-132* 
K-4.3 Cl-98 HCO3-24 AnGap-14
___ 05:25AM BLOOD Calcium-8.3* Phos-4.4 Mg-1.8

URINE
___ 03:55PM URINE Color-Yellow Appear-Hazy Sp ___
___ 03:55PM URINE Blood-TR Nitrite-POS Protein-100 
Glucose-TR Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 03:55PM URINE RBC-11* WBC->182* Bacteri-FEW Yeast-NONE 
Epi-0
___ 03:55PM URINE WBC Clm-MANY
___ 03:55PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-POS

MICROBIOLOGY
_________________________________________________________
___ 5:30 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 4:58 am BLOOD CULTURE      Source: Line-TLCL. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 6:50 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 3:35 pm BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      ESCHERICHIA COLI. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         FROM ___. 

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 
0340. 
      GRAM NEGATIVE ROD(S). 
__________________________________________________________
___ 3:30 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

   Aerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 

   Anaerobic Bottle Gram Stain (Final ___:    GRAM 
NEGATIVE ROD(S). 
__________________________________________________________
___ 3:55 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

IMAGING:
CXR ___

IMPRESSION:  No acute cardiopulmonary process.

CT HEAD ___

IMPRESSION:  No evidence of acute intracranial abnormality.

CT A&P ___

IMPRESSION:
1.  Within the limitations of non-contrast technique, there is 
no evidence of
colitis, or bowel obstruction.  There is moderate fecal loading 
throughout the
colon.
2.  Prominent fat stranding around both kidneys is unchanged.
3.  Severe atherosclerotic disease of abdominal and pelvic 
vasculature.

 
Brief Hospital Course:
___ with h/o DM1, CAD, PAD, HTN, and HLD admitted with E coli 
UTI, pyelonephritis with bacteremia.
  
# E. coli pyelonephritis.  Patient has history of recent E. coli 
UTI, treated with ciprofloxacin, and presented with recurrent 
UTI with severe sepsis and pyelonephritis on CT scan.  She 
fulfilled SIRS criteria on presentation with Tm 104 (rectal 
temp) in the ER, and initially was tachycardic HR 110.  She also 
had altered mental status in the ED.  She was treated with IV 
ceftriaxone with clinical improvement.  Blood and urine cultures 
grew E coli sensitive to ceftriaxone and ciprofloxacin.  She was 
switched to PO ciprofloxacin on discharge for a 14-day course 
through ___.  Given her frequent recurrent UTI, patient to be 
scheduled for outpatient ID consultation (request sent, patient 
to be notified with appointment). 

# Bacteremia.  She had bacteremia and had AMS in the ED, with 
presumed source urinary tract given blood and urine culture 
concordance.  She was treated with antibiotics as above and had 
clinical improvement with blood cultures NTD pending final at 
discharge from ___.

# Acute renal faulure on CKD Stage 3.  She presented with Cr to 
2.2 on admission from baseline 1.4 which was thought pre-renal 
and improved appropriately to fluids.  Her Cr was at baseline 
1.4 at discharge. 
  
# Hyponatremia. Na 131 on admission, was thought hypovolemic 
hyponatremia and improved with fluids then remained stable and 
in normal range when corrected for glucose levels.  

# Type 2 DM Controlled with Complications. Well controlled, 7.8 
HbA1c ___. 
-Cont glargine and ISS.
  
# Benign Hypertension. Home amlodipine and labetolol held on 
initial presentation given concern for sepsis then restarted 
home amlodipine and labetalol   
 
# Gastroparesis.  
-cont Reglan, PPI, and ondansetron PRN.
  
# Anemia of CKD. stable at baseline.    

# Low back pain, Sciatica. 
-cont methadone 5mg PO BID
-tylenol ___ Q6H PRN 
 
TRANSITIONAL ISSUES:
-14-day abx course for complicated UTI/pyelo to continue through 
___.
-Given recurrent UTI, patient to f/u in outpatient ___ clinic; 
she will be contacted with appointment.
PENDING STUDIES: ___ blood cultures, negative pending final
CODE STATUS: FULL
EMERGENCY CONTACT: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Acetaminophen 500 mg PO TID:PRN fever, pain 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
4. Amlodipine 10 mg PO DAILY 
5. Citalopram 40 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Labetalol 600 mg PO BID 
8. Metoclopramide 5 mg PO QIDACHS 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Bisacodyl 10 mg PO DAILY:PRN constipation 
11. Calcitriol 0.25 mcg PO DAILY 
12. cycloSPORINE 0.05 % OPHTHALMIC 2 DROPS EACH EYE THREE TIMES 
DAILY 
13. Levothyroxine Sodium 88 mcg PO DAILY 
14. Docusate Sodium 100 mg PO BID 
15. Ferrous GLUCONATE 324 mg PO BID 
16. Lidocaine 5% Patch 2 PTCH TD QPM 
17. Methadone 5 mg PO BID 
18. Polyethylene Glycol 17 g PO DAILY 
19. Senna 17.2 mg PO DAILY 
20. Multivitamins 1 TAB PO DAILY 
21. Pantoprazole 40 mg PO Q24H 
22. Simvastatin 20 mg PO QPM 
23. Cyanocobalamin 1000 mcg PO DAILY 
24. Ondansetron 2 mg PO Q8H:PRN nausea 
25. Glargine 10 Units Breakfast
Glargine 14 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
26. HydrALAzine 15 mg PO 10:00 
27. HydrALAzine 10 mg PO 2200 
28. Ascorbic Acid ___ mg PO BID 
29. Zinc Sulfate 220 mg PO DAILY 
30. GenTeal Mild (artificial tear (hypromellose)) 0.2 % 
ophthalmic QID:PRN dry eyes 
31. Heparin 5000 UNIT SC TID 

 
Discharge Medications:
1. Acetaminophen 500 mg PO TID:PRN fever, pain 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
3. Amlodipine 10 mg PO DAILY 
4. Bisacodyl 10 mg PO DAILY:PRN constipation 
5. Calcitriol 0.25 mcg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Cyanocobalamin 1000 mcg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Ferrous GLUCONATE 324 mg PO BID 
10. FoLIC Acid 1 mg PO DAILY 
11. Levothyroxine Sodium 88 mcg PO DAILY 
12. Methadone 5 mg PO BID 
13. Metoclopramide 5 mg PO QIDACHS 
14. Multivitamins 1 TAB PO DAILY 
15. Pantoprazole 40 mg PO Q24H 
16. Polyethylene Glycol 17 g PO DAILY 
17. Simvastatin 20 mg PO QPM 
18. Tiotropium Bromide 1 CAP IH DAILY 
19. Citalopram 40 mg PO DAILY 
20. cycloSPORINE 0.05 % OPHTHALMIC 2 DROPS EACH EYE THREE TIMES 
DAILY 
21. Labetalol 600 mg PO BID 
22. Senna 17.2 mg PO DAILY 
23. Ciprofloxacin HCl 500 mg PO Q12H Duration: 10 Days 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*20 Tablet Refills:*0
24. Glargine 10 Units Breakfast
Glargine 14 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
25. Heparin 5000 UNIT SC TID 
26. Lidocaine 5% Patch 2 PTCH TD QPM 
27. Ondansetron 2 mg PO Q8H:PRN nausea 
28. Ascorbic Acid ___ mg PO BID 
29. GenTeal Mild (artificial tear (hypromellose)) 0.2 % 
ophthalmic QID:PRN dry eyes 
30. HydrALAzine 15 mg PO 10:00 
31. Zinc Sulfate 220 mg PO DAILY 
32. HydrALAzine 10 mg PO 2200 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
PRIMARY DIAGNOSIS
Urinary tract infection
Severe sepsis
Bacteremia
Pyelonephritis
Hyponatremia
Acute on chronic kidney injury

SECONDARY DIAGNOSIS
type 1 diabetes mellitus
hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital due to fever and chills and were found 
to have a serious bladder infection which spread to your 
bloodstream.  You were treated with antibiotics which you will 
continue at home.

It was a pleasure caring for you,
Your ___ Care Team 
 
Followup Instructions:
___